US09290451B2
b) (S)-2-Amino-3-cyclopropyl-N,N-dimethylpropanamide hydrochloride
A 4M solution of HCl in dioxane (4.68 mL, 18.7 mmol) was added to a solution of (S)-tert-butyl 3-cyclopropyl-1-(dimethylamino)-1-oxopropan-2-ylcarbamate (1.2 g, 4.68 mmol) in ethanol (10 mL). After 16 h stirring at ambient temperature the solvent was removed under reduced pressure. The remaining solid was digerated with diethyl ether (10 mL), filtered off, washed with diethyl ether (3×5 mL) and dried for 3 h in vacuo at 40° C. to give the title compound as off-white solid (820 mg, 91%). MS (EI): m/e=157.1 [M+H]+.

reactant | HCl | Cl | ClH
reactant | dioxane | 18.7 mmol, 4.68 mL | O1CCOCC1 | C4H8O2
reactant | (S)-tert-butyl 3-cyclopropyl-1-(dimethylamino)-1-oxopropan-2-ylcarbamate | 4.68 mmol, 1.2 g | C1(CC1)C[C@@H](C(=O)N(C)C)NC(OC(C)(C)C)=O | C13H24N2O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (S)-2-Amino-3-cyclopropyl-N,N-dimethylpropanamide hydrochloride | 820 mg, 91% | Cl.N[C@H](C(=O)N(C)C)CC1CC1 | InChI=1S/C8H16N2O.ClH/c1-10(2)8(11)7(9)5-6-3-4-6;/h6-7H,3-5,9H2,1-2H3;1H/t7-;/m0./s1
